US08012976B2
Ethyl 3-(4-(dimethylcarbamoyl)phenyl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
Sodium (115 mg, 5 mmol) was added to EtOH (10 mL) to afford sodium ethoxide. (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one (500 mg, 1.96 mmol) and 4-formyl-N,N-dimethylbenzamide (382 mg, 2.16 mmol) were dissolved in ethyl propionate (10 mL), and the sodium ethoxide solution was added dropwise to the mixture at 0° C., then the mixture were heated to 30° C. for 1 h. To the reaction mixture was added water and EtOAc, the organic phase was separated, washed with water and brine. The organic phase was dried over anhydrous sodium sulfate and then concentrated to afford the crude product. The crude product was purified by flash chromatography (MeOH:DCM 1:25) to give the title compound (400 mg, yield 44%). LC-MS (ESI) m/z: 461(M+1)+.

reactant | (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one | 1.96 mmol, 500 mg | FC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
reactant | 4-formyl-N,N-dimethylbenzamide | 2.16 mmol, 382 mg | C(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C10H11NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | water | O | H2O
solvent | ethyl propionate | 10 mL | C(CC)(=O)OCC | C5H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 3-(4-(dimethylcarbamoyl)phenyl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 400 mg, yield 44% | CN(C(=O)C1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)F)C | C27H25FN2O4
